US04668690
A solution of o-bromofluorobenzene (17.5 g; 0.10 mole) in 150 ml of dry tetrahydrofuran (THF) was chilled to -60° and n-butyllithium (50 ml of 2.4M; 0.12 mole) was added dropwise at a rate such that the reaction temperature did not rise above -55°. When the addition was complete a solution of cyclohexanone (10.0 g; 0.10 mole) in 50 ml of THF was added, again maintaining the reaction temperature below -55°. The reaction was then allowed to come to room temperature over 90 minutes and was quenched by the addition of 10 ml of saturated NH4Cl solution. An additional 400 ml of water was added, then the organic layer was separated and dried. The aqueous phase was extracted again with ethyl acetate, then the combined, dried, organic phases were concentrated to an oil. This oil was dissolved in 200 ml of glacial acetic acid and treated with 1 ml of concentrated H2SO4. The acetic acid was concentrated to about 30 ml on a rotary evaporator, then diluted with 250 ml of water and the solution made basic with 50% NaOH. Extraction with ether, followed by drying and concentration under reduced pressure gave an oil that was distilled at 0.15 mm to give 9.26 g (53%) of 1-(2-fluorophenyl)cyclohexene, b.p. 70°-72°, that was homogeneous to thin layer chromatography (TLC).

reactant | o-bromofluorobenzene | 0.10 mole, 17.5 g | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | n-butyllithium | 0.12 mole, 2.4M, 50 ml | C(CCC)[Li]
reactant | cyclohexanone | 0.10 mole, 10.0 g | C1(CCCCC1)=O | C6H10O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
product | 1-(2-fluorophenyl)cyclohexene | 9.26 g, 53% | FC1=C(C=CC=C1)C1=CCCCC1 | C12H13F
